US07598391B2
{[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid tert-butyl ester
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (67 mg. 0.20 mmol), glycine tert-butyl ester hydrochloride (50 mg, 0.30 mmol) and sodium triacetoxyborohydride (59 mg, 0.28 mmol) to afford 62 mg (68%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.20 mmol, 67 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | glycine tert-butyl ester hydrochloride | 0.30 mmol, 50 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | sodium triacetoxyborohydride | 0.28 mmol, 59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | {[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid tert-butyl ester | 62 mg, 68% | C(C)(C)(C)OC(CNCC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C23H38N4O3S
